US06441017B1
Step D: (R)-2-(tert-Butoxycarbonylamino)-4-(methylmercapto)-N-[7-(tert-butyldimethylsilvloxy)naphthalen-1-yl]butyramide
To (R)-N-(tert-butoxycarbonyl)methionine (27.3 g, 109 mmol) in dry CH2Cl2 (45 mL) at 0° C., under argon, were added PYBOP (57 g, 109 mmol), 1-amino-7-(tert-butyldimethylsilyloxy)naphthalene hydrochloride, as described above in Step C above (13.6 g, 44 mmol), and N,N-diisopropylethylamine (26.7 mL, 153 mmol). The reaction mixture was allowed to warm to ambient temperature and was stirred for 4 hours, then partitioned between 10% aqueous citric acid (400 mL) and CH2Cl2 (1 L). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of hexane—10% to 25% EtOAc to yield the titled product.

reactant | (R)-N-(tert-butoxycarbonyl)methionine | 109 mmol, 27.3 g | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)O | C10H19NO4S
reactant | PYBOP | 109 mmol, 57 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 1-amino-7-(tert-butyldimethylsilyloxy)naphthalene hydrochloride | Cl.NC1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C
reactant | N,N-diisopropylethylamine | 153 mmol, 26.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(tert-Butoxycarbonylamino)-4-(methylmercapto)-N-[7-(tert-butyldimethylsilvloxy)naphthalen-1-yl]butyramide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)CCSC | C26H40N2O4SSi
